US04014883
A suspension of 60 g. of 2-chloro-7H-indolo[2,3-c]quinolin-6(5H)-one in 950 ml. of phosphorous oxychloride was heated under nitrogen on a steam bath for 2 hours. The deep yellow granular complex that formed was collected and washed thoroughly with anhydrous ether (85.5 g.). After drying, this complex was suspended in 500 ml. of water to which 300 ml. of concentrated aqueous ammonium hydroxide solution was added, in portions, with stirring. The resulting pale yellow solid was collected and washed with water. After recrystallization from 2 l. of acetonitrile, 37.5 g. (68 percent) of colorless needles of 2,6-dichloro-7H-indolo[2,3-c]quinoline was obtained, which had a melting point of 262°-264°. sample, melting point 265°-266°.

reactant | 2-chloro-7H-indolo[2,3-c]quinolin-6(5H)-one | ClC=1C=C2C3=C(C(NC2=CC1)=O)NC=1C=CC=CC13 | C15H9ClN2O
reactant | phosphorous oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2,6-dichloro-7H-indolo[2,3-c]quinoline | ClC=1C=C2C3=C(C(=NC2=CC1)Cl)NC=1C=CC=CC13 | C15H8Cl2N2
